US04590201
To a stirred solution of sodium (0.147 g, 6.41 mmol) in ethanol (20 ml) under nitrogen atmosphere was added 2-cyanoacetamide (539 mg, 6.41 mmol) and the mixture was refluxed 10 minutes. The mixture was cooled slightly, 3-(4-chlorobenzoyl)-4-chlorobenzyl azide (1.51 g, 4.93 mmol) was added, and the mixture was refluxed 1 hour. The mixture was cooled to 0° C. and filtered. The product was washed with ice cold ethanol (2×5 ml), water (3×5 ml), ice cold ethanol (2×5 ml), and diethyl ether (10 ml), and dried at 50° C. for 3 hours under vacuum to provide 1.16 g (60%) of 5-amino-1-(3-[4-chlorobenzoyl]-4-chlorobenzyl)-1,2,3-triazole-4-carboxamide, m.p. 189°-192° C.

reactant | sodium | 6.41 mmol, 0.147 g | [Na] | Na
reactant | 2-cyanoacetamide | 6.41 mmol, 539 mg | C(#N)CC(=O)N | C3H4N2O
reactant | 3-(4-chlorobenzoyl)-4-chlorobenzyl azide | 4.93 mmol, 1.51 g | ClC1=CC=C(C(=O)C=2C=C(CN=[N+]=[N-])C=CC2Cl)C=C1 | C14H9Cl2N3O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-amino-1-(3-[4-chlorobenzoyl]-4-chlorobenzyl)-1,2,3-triazole-4-carboxamide | 1.16 g, 60% | NC1=C(N=NN1CC1=CC(=C(C=C1)Cl)C(C1=CC=C(C=C1)Cl)=O)C(=O)N | C17H13Cl2N5O2
